US07572805B2
Part B. 2-Chloro-N,N-diethyl-4-propylbenzamide
To the crude (E)-2-chloro-N,N-diethyl-4-(prop-1-enyl)benzamide in 100 mL of absolute ethanol was added 10% Pd/C catalyst (1 g). The mixture was stirred under 1 atm of hydrogen, maintained by a balloon, for 18 h. Starting material still remained and so additional 10% Pd/C (0.5 g) was added and the reaction was charged with a fresh hydrogen balloon and stirred and additional 24 h. The reaction mixture was filtered through a pad of Celite and concentrated. The residue was purified by flash chromatography (230-400 mesh silica gel, elution with 8:1 to 6:1 hexane/EtOAc) to afford 2.15 g (67%) of the title compound. 1H NMR (CDCl3): δ 7.12 (d, 1H, J=1.1 Hz), 7.09 (d, 1H, J=7.7 Hz), 7.02 (dd, 1H, J=1.6, 7.7 Hz), 3.75-3.68 (m, 1H), 3.32-3.25 (m, 1H), 3.11-3.06 (m, 2H), 2.50 (t, 2H, J=7.7 Hz), 1.60-1.52 (m, 2H), 1.19 (t, 3H, J=7.1 Hz), 0.99 (t, 3H, J=7.1 Hz), 0.87 (t, 3H, J=7.4 Hz). LRMS (ESI): 254.10/256.10 (M+H)+.

reactant | (E)-2-chloro-N,N-diethyl-4-(prop-1-enyl)benzamide | ClC1=C(C(=O)N(CC)CC)C=CC(=C1)\C=C\C | C14H18ClNO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-Chloro-N,N-diethyl-4-propylbenzamide | 2.15 g, 67% | ClC1=C(C(=O)N(CC)CC)C=CC(=C1)CCC | C14H20ClNO
